US04806558
(5,6,7,8-Tetrahydro-3-methoxy-5,5,8,8-tetramethylnaphth-2-yl)-(4-tolyl)-acetylene
A solution of 20.2 g (0.18 mole) of potassium tert.-butylate in 45 ml of dimethyl sulfoxide was added dropwise to a solution of 23.2 g (0.09 mole) of diethyl 1-chloro-1-(4-tolyl)-methylphosphonate and 22.1 g (0.09 mole) of 2-formyl-5,6,7,8-tetrahydro-3-methoxy-5,5,8,8-tetramethylnaphthalene in 270 ml of dry dimethyl sulfoxide at room temperature. The mixture was stirred for 30 minutes, poured onto 1 liter of ice water and extracted three times with ether. The ether phase was washed twice with water, dried over sodium sulfate and evaporated down to give 22.6 g (76%) of a slightly impure product. Recrystallization from methanol gave 15.2 g (51%) of the pure title compound of melting point 127° C.

reactant | diethyl 1-chloro-1-(4-tolyl)-methylphosphonate | 0.09 mole, 23.2 g | ClC(C1=CC=C(C=C1)C)P(OCC)(OCC)=O | C12H18ClO3P
reactant | 2-formyl-5,6,7,8-tetrahydro-3-methoxy-5,5,8,8-tetramethylnaphthalene | 0.09 mole, 22.1 g | C(=O)C1=CC=2C(CCC(C2C=C1OC)(C)C)(C)C | C16H22O2
solvent | dimethyl sulfoxide | 45 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 270 ml | CS(=O)C | C2H6OS
product | (5,6,7,8-Tetrahydro-3-methoxy-5,5,8,8-tetramethylnaphth-2-yl)-(4-tolyl)-acetylene | 15.2 g, 51% | COC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C#CC1=CC=C(C=C1)C | C24H28O
